US20010006969A1
4-Allylamino-2-ethylamino-6-nitroquinazoline
A mixture of 250 mg (0.95 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline and 796 mg (15.52 mmol) of a 70% aqueous ethylamine solution was stirred at room temperature for 3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 234 mg (yield: 90.6%) of the title compound.

reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 0.95 mmol, 250 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | ethylamine | C(C)N | C2H7N
solvent | Water | O | H2O
product | 4-Allylamino-2-ethylamino-6-nitroquinazoline | 234 mg, yield: 90.6% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NCC | C13H15N5O2
